* Comparator Atlas. Original test circuit; conventional StrongARM topology.
* Geometry is in micrometres under .option scale=1u.
* pair_skew is deterministic input-pair width stress, NOT a foundry MC model.
.subckt atlas vinp vinn clk vdd vss qp qn tp0 tp1 tp2 tn0 tn1 tn2
+ params: pair_skew=0 input_w=2 input_l=0.15 trim_l=1

Xinp xp vinp tail vss sky130_fd_pr__nfet_01v8
+ w={input_w*(1+pair_skew)} l={input_l}
+ ad={0.29*input_w*(1+pair_skew)} as={0.29*input_w*(1+pair_skew)}
+ pd={2*(0.29+input_w*(1+pair_skew))} ps={2*(0.29+input_w*(1+pair_skew))}
Xinn xn vinn tail vss sky130_fd_pr__nfet_01v8
+ w={input_w*(1-pair_skew)} l={input_l}
+ ad={0.29*input_w*(1-pair_skew)} as={0.29*input_w*(1-pair_skew)}
+ pd={2*(0.29+input_w*(1-pair_skew))} ps={2*(0.29+input_w*(1-pair_skew))}
Xtail tail clk vss vss sky130_fd_pr__nfet_01v8
+ w=5 l=0.15 ad=1.45 as=1.45 pd=10.58 ps=10.58

* qn is discharged by the vinp branch; positive input means qp is high.
Xln qn qp xp vss sky130_fd_pr__nfet_01v8
+ w=1 l=0.15 ad=0.29 as=0.29 pd=2.58 ps=2.58
Xlp qp qn xn vss sky130_fd_pr__nfet_01v8
+ w=1 l=0.15 ad=0.29 as=0.29 pd=2.58 ps=2.58
Xpn qn qp vdd vdd sky130_fd_pr__pfet_01v8
+ w=2 l=0.15 ad=0.58 as=0.58 pd=4.58 ps=4.58
Xpp qp qn vdd vdd sky130_fd_pr__pfet_01v8
+ w=2 l=0.15 ad=0.58 as=0.58 pd=4.58 ps=4.58
Xrxp xp clk vdd vdd sky130_fd_pr__pfet_01v8
+ w=1 l=0.15 ad=0.29 as=0.29 pd=2.58 ps=2.58
Xrxn xn clk vdd vdd sky130_fd_pr__pfet_01v8
+ w=1 l=0.15 ad=0.29 as=0.29 pd=2.58 ps=2.58
Xrqp qp clk vdd vdd sky130_fd_pr__pfet_01v8
+ w=1 l=0.15 ad=0.29 as=0.29 pd=2.58 ps=2.58
Xrqn qn clk vdd vdd sky130_fd_pr__pfet_01v8
+ w=1 l=0.15 ad=0.29 as=0.29 pd=2.58 ps=2.58

* Signed-magnitude trim: source-gated, binary-weighted auxiliary input NFETs.
* The analog gates track their corresponding input; digital bits drive switches.
* All devices remain present in the code-zero baseline (fair parasitic load).
Xtp0 xp vinp sp0 vss sky130_fd_pr__nfet_01v8
+ w=0.42 l={trim_l} ad=0.1218 as=0.1218 pd=1.42 ps=1.42
Xtp1 xp vinp sp1 vss sky130_fd_pr__nfet_01v8
+ w=0.84 l={trim_l} ad=0.2436 as=0.2436 pd=2.26 ps=2.26
Xtp2 xp vinp sp2 vss sky130_fd_pr__nfet_01v8
+ w=1.68 l={trim_l} ad=0.4872 as=0.4872 pd=3.94 ps=3.94
Xtn0 xn vinn sn0 vss sky130_fd_pr__nfet_01v8
+ w=0.42 l={trim_l} ad=0.1218 as=0.1218 pd=1.42 ps=1.42
Xtn1 xn vinn sn1 vss sky130_fd_pr__nfet_01v8
+ w=0.84 l={trim_l} ad=0.2436 as=0.2436 pd=2.26 ps=2.26
Xtn2 xn vinn sn2 vss sky130_fd_pr__nfet_01v8
+ w=1.68 l={trim_l} ad=0.4872 as=0.4872 pd=3.94 ps=3.94
Xsp0 sp0 tp0 tail vss sky130_fd_pr__nfet_01v8
+ w=1 l=0.15 ad=0.29 as=0.29 pd=2.58 ps=2.58
Xsp1 sp1 tp1 tail vss sky130_fd_pr__nfet_01v8
+ w=2 l=0.15 ad=0.58 as=0.58 pd=4.58 ps=4.58
Xsp2 sp2 tp2 tail vss sky130_fd_pr__nfet_01v8
+ w=4 l=0.15 ad=1.16 as=1.16 pd=8.58 ps=8.58
Xsn0 sn0 tn0 tail vss sky130_fd_pr__nfet_01v8
+ w=1 l=0.15 ad=0.29 as=0.29 pd=2.58 ps=2.58
Xsn1 sn1 tn1 tail vss sky130_fd_pr__nfet_01v8
+ w=2 l=0.15 ad=0.58 as=0.58 pd=4.58 ps=4.58
Xsn2 sn2 tn2 tail vss sky130_fd_pr__nfet_01v8
+ w=4 l=0.15 ad=1.16 as=1.16 pd=8.58 ps=8.58
.ends atlas
